US04745206
Sodium aminophenoxide reactant was prepared by slowly adding sodium hydride (100%, 2.6 g, 0.11 mole) to a slurry of p-aminophenol (10.9 g, 0.1 mole) in about 100 mL tetrahydrofuran (THF). The reaction mixture was heated at 60°-67° C. for 3 hours, or until evolution of hydrogen was no longer visible. Sodium aminophenoxide salt, a purplish solid, formed during this time. The salt was either filtered and washed with THF, or used as prepared, as a slurry. The entire procedure was carried out under nitrogen.

reactant | sodium hydride | 0.11 mole, 2.6 g | [H-].[Na+]
reactant | p-aminophenol | 0.1 mole, 10.9 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | hydrogen | [H][H] | H2
reactant | tetrahydrofuran | about 100 mL | O1CCCC1 | C4H8O
product | Sodium aminophenoxide salt | NC1=C([O-])C=CC=C1.[Na+] | InChI=1S/C6H7NO.Na/c7-5-3-1-2-4-6(5)8;/h1-4,8H,7H2;/q;+1/p-1
